US07465815B2
2-(3,5-Dimethylphenoxy)-1-phenylethanone
Using 3,5-dimethylphenol and phenacyl bromide, the title compound was synthesized in the same manner as in Reference Example 177. Yield 86%. Melting point: 104-105° C. (methanol).

reactant | 3,5-dimethylphenol | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | methanol | CO | CH4O
product | 2-(3,5-Dimethylphenoxy)-1-phenylethanone | Yield 86% | CC=1C=C(OCC(=O)C2=CC=CC=C2)C=C(C1)C | C16H16O2
